US05096700
N-(3-(S)-amino-2-(R)-fluorobutanoyl)glycine:
To a solution of benzyl N-(benzyloxycarbonyl-3-(S)-amino-2-(R)-fluorobutanoyl)glycinate (8.50 g, 21.1 mmol) in 200 mL of methanol is added 850 mg of 10% palladium on carbon. The mixture is connected to a Parr hydrogenation apparatus and hydrogenated at 50 psi for 18 hours. The mixture is then filtered through celite to remove the catalyst. Evaporation of the solvent leaves 3.66 g of the desired product as a white solid.

reactant | benzyl N-(benzyloxycarbonyl-3-(S)-amino-2-(R)-fluorobutanoyl)glycinate | 21.1 mmol, 8.50 g | C(C1=CC=CC=C1)OC(=O)C[C@@H]([C@H](C(=O)NCC(=O)OCC1=CC=CC=C1)F)N | C21H23FN2O5
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium on carbon | 850 mg | [Pd] | Pd
product | N-(3-(S)-amino-2-(R)-fluorobutanoyl)glycine | 3.66 g | N[C@H]([C@H](C(=O)NCC(=O)O)F)C | C6H11FN2O3
